* Z:\mnt\design.r\spice\examples\1157.asc
XU1 MP_01 N003 0 N002 N005 N001 N006 LTC1157
V1 N001 0 3.3
M§Q1 N001 N003 N004 N004 Si4838DY
V2 N002 0 PULSE(0 3 0 100n 100n 2.5m 5m)
V3 N005 0 PULSE(0 3 0 100n 100n 2.5m 5m)
M§Q2 N001 N006 N007 N007 Si4838DY
Rload1 N007 0 10
Rload2 N004 0 10
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 20m startup
.lib LTC1157.sub
.backanno
.end
